* C:\users\user\Desktop\Documents\100 days wake up\Electronics\ECG 12 Lead \LPF\Simulation\Low Pass Filter.asc
XU1 N001 N004 VEE VCC N004 LT1001
C1 0 VCC 100nf
C2 0 VEE 100nf
R1 N003 N002 51k
R2 N001 N003 51k
C3 N003 N004 47nf
C4 N001 0 22nf
V1 N002 0 SINE(0 1 100) AC 1
V2 VCC 0 6v
V3 VEE 0 -6v
* Low Pass Filter 100 Hz -40dB/dec\ndengan Topologi Sallen Key
.ac dec 100 0.1 100k
.lib LTC.lib
.backanno
.end
